US04233452
When the above procedure was repeated starting with the potassium salt of 5-(4-chlorophenyl)thien-2-ylglyoxylic acid, there was obtained 5-(4-chlorophenyl)thien-2-ylglycolic acid, m.p. 158°-160° C.

reactant | potassium | [K] | K
reactant | 5-(4-chlorophenyl)thien-2-ylglyoxylic acid | ClC1=CC=C(C=C1)C1=CC=C(S1)C(C(=O)O)=O | C12H7ClO3S
product | 5-(4-chlorophenyl)thien-2-ylglycolic acid | ClC1=CC=C(C=C1)C1=CC=C(S1)C(C(=O)O)O | C12H9ClO3S
